* 100-threshold-reset-transistor-core.cir
* First transistor-level reset/discharge study.
* Keep the threshold decision idealized enough to preserve a clean benchmark,
* but make the reset side more bench-truthful than 90.

.param CV_IN_DC=0
.param COARSE_V=0
.param FINE_V=0
.param TambC=25

.param Ibase=5u
.param SenseR=100k

.param Kvt=8.617333262145e-5
.param Vt25={Kvt * (25 + 273.15)}
.param VtNow={Kvt * (TambC + 273.15)}
.param ScaleNow={log(2) * (Vt25 / VtNow)}

.param Ctiming=10n
.param Vtrip=0.90
.param Vlogic=5

.param Rref=100k
.param Rhyst=4.7Meg
.param Rbase=4.7k
.param Rbe=100k
.param Creset=33p
.param CompVh=0.10
.param Rpull=10k
.param Rdischarge=330
.param Remit=22

.param Ref90Period=3.923480e-04
.param Ref90Low=7.876297e-01
.param Ref90High=9.805283e-01

Vcv cv_in 0 {CV_IN_DC}
Bsum tune_sum 0 V = v(cv_in) + {COARSE_V} + {FINE_V}

Bexpo_ramp 0 ramp I = {Ibase * exp(ScaleNow * v(tune_sum))}
Bexpo_sense 0 expo_out I = {Ibase * exp(ScaleNow * v(tune_sum))}
Rsense expo_out 0 {SenseR}

Ctiming ramp 0 {Ctiming} ic=0
Rbleed ramp 0 10Meg

Vref reference 0 {Vtrip}
Rref reference cmp_ref {Rref}
Rhyst reset_ctrl cmp_ref {Rhyst}
Rcmp_leak cmp_ref 0 100Meg

Bthreshold threshold_node 0 V = v(ramp) - v(cmp_ref)

* Keep the comparator decision idealized for this round.
Vlogic_hi logic_hi 0 {Vlogic}
Rpull reset_ctrl 0 {Rpull}
Scomp logic_hi reset_ctrl threshold_node 0 SWCOMP
.model SWCOMP SW(Ron=100 Roff=1e9 Vt=0 Vh={CompVh})

* The discharge path is now the real teaching target.
Rbase reset_ctrl qbase {Rbase}
Rbe qbase 0 {Rbe}
Creset qbase 0 {Creset}
Rdischarge ramp qcol {Rdischarge}
Reemit qemit 0 {Remit}
Dclamp qbase qcol DFAST
Qreset qcol qbase qemit QRESET

.model DFAST D(Is=2.52n Rs=0.568 N=1.906 Cjo=1p M=0.03 Eg=1.11 Bv=100 Ibv=0.1u Tt=4n)
.model QRESET NPN(Is=6.734f Bf=200 Vaf=74 Ikf=0.284 Xtb=1.5 Br=3 Rc=1 Cjc=4.5p Mjc=0.341 Vjc=0.75 Cje=22p Mje=0.377 Vje=0.75 Tr=46.91n Tf=411.1p Itf=0.4 Vtf=4 Xtf=2)

Bsaw saw_out 0 V = v(ramp)
Bpulse pulse_out 0 V = v(reset_ctrl)

.tran 1u 12m uic maxstep=1u

.control
set filetype=ascii

run
wrdata 100-threshold-reset-transistor-core.csv time v(tune_sum) v(expo_out) v(cmp_ref) v(ramp) v(threshold_node) v(reset_ctrl) v(qbase) v(qcol) v(qemit) v(saw_out) v(pulse_out)

meas tran cycle_min min v(ramp) from=4m to=12m
meas tran cycle_max max v(ramp) from=4m to=12m
meas tran nominal_period trig v(reset_ctrl) val=2.5 rise=3 targ v(reset_ctrl) val=2.5 rise=4
meas tran reset_high max v(reset_ctrl) from=4m to=12m
meas tran qbase_high max v(qbase) from=4m to=12m
meas tran qcol_low min v(qcol) from=4m to=12m
meas tran threshold_low min v(threshold_node) from=4m to=12m
meas tran threshold_high max v(threshold_node) from=4m to=12m

let ref90_period = 3.923480e-04
let ref90_low = 7.876297e-01
let ref90_high = 9.805283e-01
let period_ratio_vs_90 = nominal_period / ref90_period
let low_delta_vs_90 = cycle_min - ref90_low
let high_delta_vs_90 = cycle_max - ref90_high
let freq_nominal = 1 / nominal_period

print cycle_min cycle_max nominal_period freq_nominal reset_high qbase_high qcol_low threshold_low threshold_high ref90_period ref90_low ref90_high period_ratio_vs_90 low_delta_vs_90 high_delta_vs_90 > 100-threshold-reset-transistor-core-summary.txt
.endc

.end
